.include /mnt/e/MyResearch/Analog_blocks/Analog_Blocks/OTA/Netlists/Design/Miller_OTA/Transitor1.8v/Miller_OTA_NMOS_1.8v.spice
**.subckt Ideal_opamp Vp Vn Out
*.ipin Vp
*.ipin Vn
*.opin Out
V1 Vp PLUS_I 0
V2 Vn MINUS_I 0
B1 Out 0 V = 'VDD/2*(1+tanh(GAIN*(V(PLUS_I)-V(MINUS_I))))' 
**.ends
** flattened .save nodes
.save I(V1)
.save I(V2)
.end
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
.op
.end
